Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Oxycodone / Ragweed
 
Attending: ___
 
Chief Complaint:
confusion, rehab placement 

 
Major Surgical or Invasive Procedure:
-lumbar puncture ___

 
History of Present Illness:
___ male w/ PMH of sarcoidosis, sleep apnea, new-onset 
dementia of unknown etiolgy, hx of ITP s/p splenectomy presents 
to ED after falling at home in the setting of confusion and 
recent diagnosis of dementia. Per patient, he was in the bathtub 
taking a shower, when he began to feel nauseous and spit 
up/vomited, felt dizzy, slipped, and fell in the tub. Denies any 
chest pain, sob, headache, palpitations. Wife found him in the 
tub. Per wife, did not appear like he lost consciousness, no 
urine/stool incontinence, no confusion at the time. He was 
shivering/rigoring and she took him to the bed with help of ___ 
to cover him with his electrical warming blanket. Patient 
insisted to going to the bathroom, but appeared more confused, 
urinating on the floor, not knowing where he was, and staring 
into space ('deer in a headlight'). Wife called the ambulance. 

Of note, patient also has had three other mechanical falls in 
the past. In ___, he fell while coming down 
the ladder; a few months ago, lost his balance while emptying 
shelves in his refrigerator and fell backawards; and last month 
fell when going to the bathroom with the lights off. 

Patient also has had ___ years of intermittent fevers (as high as 
104) and rigors in the setting of systemic sarcoidosis. Per 
wife, he usually takes an aleve and his fever/rigors resolves. 
She has not noticed any relationship between his fevers/rigors 
and confusion. Yesterday, was the only time that his 
fevers/rigors had been associated with an event of confusion. 
Starting 6 months ago, wife and children has noticed that 
patient has become more altered -- forgetting how to do 
something, confused about where he was driving to, forgetting 
what he needed to get at the store, leaving home in his car then 
calling saying he doesn't know where he is. He has been recently 
given a diagnosis of dementia. He has progressively gotten more 
confused in the last few month including yesterday in which he 
was urinating on the floor as he did not know where he was. He 
also has been getting higher fevers including a fever of ___ 
yesterday. Recently hospitalized at ___ from ___ for bronchitis, influenza, pneumonia, and toxic metabolic 
encephalopathy with underlying dementia. Workup at the time was 
negative for TSH, RPR, EEG, MRI. 
.  
In the ED, case management evaluated him given wife's concerns 
that he requires more aid at home and because of his fevers, 
high white count, systemic problems, the patient admitted for 
rehab placement. Trauma evaluation in the ED was negative for 
acutely concerning injuries.  
.  
In ED VS were 101.9 110 124/58 16 97%  
Labs were remarkable for Cre 1.3 (near baseline), WBC ~21 (also 
chronically elevated), Ca of 10.7, U/A Trace ___, WBC 8, Epi 0, 
Nitrite neg. Few bacteria.  
Imaging: head CT- no evidence of acute intracranial injury, CXR: 
stable opacities on wet read  
Interventions: given CTX 1g  
.  
Of note, patient has not been taking his prednisone for about a 
month. Reports that he stopped taking the medication because he 
heard that prednisone can cause thining of his bones. Per wife, 
he used to swim for miles several times per week, do yardwork, 
walk dog daily. Able to perform yardwork during last ___, 
but wife has noticed that he is more tired than usual during the 
last 2 months and has limited most of his physical activities. 

On arrival to the floor, patient was AxOx3 and per wife was back 
at baseline. This morning, patient A&Ox2 and wife states that 
his mental status is similar to 6 months ago, prior to beginning 
of worsening mental status.  
.  
ROS:  
(+) Per HPI, lost about ___ in the last year, poor appetite, 
+productive cough 
(-) Denies headache, sinus tenderness, rhinorrhea or congestion. 
Denied cough, shortness of breath. Denied chest pain or 
tightness, palpitations. Denied nausea, vomiting, diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denied arthralgias or myalgias.  

 
Past Medical History:
1. Sarcoidosis, dx skin bx: intestinal & pulmonary involvement, 
recurrent iritis
2. Inflammatory bowel disease; s/p ileo-hemicolectomy ___, 
path +sarcoid   
3. GERD.  
4. Hyperlipidemia
5  OSA on CPAP
6. Asthma.  
7. Osteoarthritis.  
8. Fractured pelvis, ___ s/p fall.
9. BPH, status post prostatectomy.  
10. Depression.  
11. History of ITP, status post splenectomy in ___.   
12. Hard of hearing and wears hearing aid.
  
Past Surgical History:  
1. s/p Ex Lap, R hemicolectomy, ileocecal colostomy for 
evaluation ileocecal mass.  
2. Arthroscopic surgery of both knees.  
3. Shoulder surgery.  
4. Hernia repair.  

 
Social History:
___
Family History:
Mother: ___, cardiac disease.  
Father: diverticulosis, peptic ulcer disease, died at age ___.  
Maternal grandfather: ___ cancer.  
Two siblings, living and healthy.  

 
Physical Exam:
ADMISSION PHYSICAL EXAM
VS: 97.5 120/70 75 18 98% on 3L NC  
GENERAL: Cachectic, hard of hearing, AxOx3, NAD  
HEENT: AT, EOMI, PERRLA, slightly dried MM. 
NECK: supple, no JVD  
HEART: RRR S1/S2 heard, ___ holosystolic murmur best heard at 
the apex   
LUNGS: scattered course crackles throughout. No rhonchi/wheezes 
appreciated.    
ABDOMEN: soft, nontender, nondistended. +BS.  
EXT: wwp, no edema. DPs, PTs 2+.  
SKIN: dry, no rash  
NEURO/PSYCH: CNs III-XII intact except CN VIII. strength and 
sensation in U/L extremities grossly intact. gait not assessed. 
A&Ox2 (thought he was at ___. 

DISCHARGE PHYSICAL EXAM
VS: 97.5, 121/69, 70, 18, 97% CPAP
GENERAL: Cachectic, hard of hearing, NAD  
HEENT: AT, EOMI, PERRLA, slightly dried MM. 
NECK: supple, no JVD  
HEART: RRR S1/S2 heard, ___ holosystolic murmur best heard at 
the apex  
LUNGS: inspiratory course crackles at the bases, otherwise ctab. 
No rhonchi/wheezes appreciated.    
ABDOMEN: soft, nontender, nondistended. +BS.  
EXT: wwp, no edema. DPs, PTs 2+.  
SKIN: dry, no rash  
NEURO/PSYCH: A+Ox3, CNs III-XII grossly intact excluding VIII. 
strength and sensation in U/L extremities grossly intact. normal 
gait.  

 
Pertinent Results:
ADMISSION LABS
___ 03:05PM BLOOD WBC-20.5* RBC-4.30* Hgb-10.1* Hct-32.3* 
MCV-75* MCH-23.6* MCHC-31.3 RDW-18.0* Plt ___
___ 03:05PM BLOOD Neuts-77* Bands-0 Lymphs-8* Monos-8 Eos-1 
Baso-0 Atyps-4* ___ Myelos-2* NRBC-1*
___ 03:05PM BLOOD ___ PTT-30.4 ___
___ 03:05PM BLOOD Glucose-75 UreaN-34* Creat-1.3* Na-136 
K-4.1 Cl-100 HCO3-27 AnGap-13
___ 03:05PM BLOOD Calcium-10.7* Phos-2.4* Mg-1.8
___ 06:35AM BLOOD Albumin-2.6* Calcium-10.4* Phos-2.8 
Mg-1.9
___ 03:22PM BLOOD Lactate-1.0

RELEVANT LABS
___ 06:40AM BLOOD ESR-60*
___ 06:40AM BLOOD ALT-72* AST-77* LD(LDH)-186 CK(CPK)-9* 
AlkPhos-503* TotBili-0.7
___ 06:40AM BLOOD calTIBC-239* Ferritn-465* TRF-184*
___ 06:40AM BLOOD PTH-10*
___ 06:40AM BLOOD 25VitD-22*
___ 06:32AM BLOOD Cortsol-12.4
___ 06:40AM BLOOD CRP-98.6*
___ 06:40AM BLOOD PEP-NO SPECIFIC ABNORMALITIES SEEN
___ 05:50AM BLOOD HIV Ab-NEGATIVE
___ 07:42AM BLOOD freeCa-1.39*

DISCHARGE LABS
___ 05:50AM BLOOD WBC-15.3* RBC-3.57* Hgb-8.6* Hct-28.3* 
MCV-79* MCH-24.0* MCHC-30.2* RDW-18.6* Plt ___
___ 05:50AM BLOOD Glucose-110* UreaN-37* Creat-1.0 Na-139 
K-4.8 Cl-107 HCO3-23 AnGap-14
___ 05:50AM BLOOD Albumin-2.5* Calcium-9.3 Phos-3.3 Mg-2.0

URINE
___ 07:55PM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-TR
___ 07:55PM URINE RBC-0 WBC-8* Bacteri-FEW Yeast-NONE Epi-0
___ 03:04PM URINE Hours-RANDOM TotProt-<6
___ 09:40PM URINE Hours-RANDOM Creat-41 TotProt-16 
Prot/Cr-0.4*
___ 03:04PM URINE U-PEP-NO PROTEIN DETECTED

CSF
___ 06:03PM CEREBROSPINAL FLUID (CSF) WBC-11 RBC-93* 
Polys-0 ___ Macroph-58
___ 06:03PM CEREBROSPINAL FLUID (CSF) WBC-10 RBC-430* 
Polys-10 ___ Macroph-49
___ 06:03PM CEREBROSPINAL FLUID (CSF) TotProt-75* 
Glucose-61
___ 06:03PM CEREBROSPINAL FLUID (CSF) HERPES SIMPLEX VIRUS 
PCR- NEGATIVE

MICRO
___ URINE URINE CULTURE- <10,000 organisms/ml. 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
___ 6:02 pm CSF;SPINAL FLUID      Source: LP #3. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 

   VIRAL CULTURE (Preliminary):    NO VIRUS ISOLATED. 
___ CSF;SPINAL FLUID CRYPTOCOCCAL 
ANTIGEN-CRYPTOCOCCAL ANTIGEN NOT DETECTED.
___ SPINAL FLUID CYTOLOGY: NEGATIVE FOR MALIGNANT CELLS.
___ URINE URINE CULTURE-NO GROWTH.
___ BLOOD CULTURE Blood Culture, Routine-NO 
GROWTH.
___ BLOOD CULTURE Blood Culture, Routine-NO 
GROWTH

IMAGING
___ EKG
Sinus rhythm. Left axis deviation. Compared to the previous 
tracing  
of ___ the rate is faster. 
  Intervals Axes 
Rate PR QRS QT/QTc P QRS T 
96 136 96 352/415 59 -30 58  

___ CXR (PA & LAT)
IMPRESSION: Scattered opacities in the lungs, as seen on prior 
chest 
radiographs, could represent pneumonia or sarcoidosis flair.  
Consider CT to further assess. 

___ CT HEAD W/O CONTRAST
FINDINGS:  There is no acute intracranial hemorrhage, edema, 
mass effect or major vascular territorial infarct. Prominent 
ventricles and sulci are 
unchanged and compatible with mild global age-related volume 
loss.  Basal 
cisterns are preserved.  There is no shift of normally midline 
structures. Hypoattenuation in the periventricular and 
subcortical white matter is unchanged and likely sequelae of 
chronic microvascular ischemic disease.  Gray-white matter 
differentiation is preserved.  No calvarial fracture is 
identified.  There is mild mucosal thickening in the ethmoid air 
cells, with tiny air-fluid levels in the sphenoid sinuses.  The 
remainder of the visualized paranasal sinuses, mastoid air cells 
and middle ear cavities are clear. 
IMPRESSION:  No acute intracranial injury. 

___ CT CHEST W/O CONTRAST
FINDINGS:  Scarring and bronchiectasis within the right upper 
lobe is 
unchanged in appearance and likely the sequela of this patients 
sarcoid.  
Right upper lobe chain suture reflects prior wedge resection.  
Multiple new peribronchovascular nodules are predominantly basal 
and peripheral, some of which show a characteristic flame-shaped 
appearance (4; 113).  For example, a right lower lobe nodule 
abuts the pleural surface, contains an air bronchogram, and 
measures 2.8 x 2.3 cm;  a left lower lobe nodule also contains 
traversing air-filled bronchi and measures 2.5 x 1.8 cm.  The 
pleural surfaces are normal.  The airways remain patent and 
normal appearing, with a small amount of adherent mucus within 
the trachea.   
  
Central lymph nodes are mildly enlarged from the prior study, 
including a 
1.5-cm right lower paratracheal node, a 9-mm prevascular node, 
and a 1.3-cm subcarinal node.  The heart is normal in size 
without pericardial effusion.  The great vessels are normal in 
size and configuration.  A physiologic amount of fluid is seen 
in the posterior superior aortic recess.  There is moderate 
calcification of the visualized coronary arteries. 
  
While this exam is not tailored for evaluation of structures 
beneath the 
diaphragm, it shows prominent retrocrural lymph nodes.  The 
thyroid gland is normal appearing.  There is moderate thoracic 
spinal degenerative disc change. Compression deformity of the 
T12 vertebral body is similar in appearance to the chest 
radiograph performed ___, but new from ___. 
  
IMPRESSION: 
1.  Marked increase in basilar and peripheral prominence of 
peribronchovascular nodules, some of which have a characteristic 
flame-shaped appearance suggestive of sarcoid, however, in the 
clinical setting of leukocytosis and fever, infection cannot be 
excluded. 
2.  T12 wedge deformity, unchanged from ___ and 
new from ___. 

___ ECHO 
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. Left ventricular wall thickness, cavity size and 
regional/global systolic function are normal (LVEF >55%). 
Overall left ventricular systolic function is normal (LVEF>55%). 
Tissue Doppler imaging suggests a normal left ventricular 
filling pressure (PCWP<12mmHg). Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve leaflets are structurally normal. There is no 
mitral valve prolapse. Moderate (2+) mitral regurgitation is 
seen. The estimated pulmonary artery systolic pressure is 
normal. There is no pericardial effusion. 

IMPRESSION: Normal left ventricular wall thickness and cavity 
size with preserved global and regional biventricular systolic 
function. Moderate mitral regurgitation. Normal pulmonary artery 
systolic pressure. 
 
Brief Hospital Course:
___ male w/ PMH of sarcoidosis, sleep apnea on CPAP, 
new-onset dementia of unknown etiology, hx of ITP s/p distant 
splenectomy presents to ED after falling at home in the setting 
of rapid progressive cognitive decline for the last six months, 
intermittent fevers and leukocytosis for ___ years, and recent 
pna.   
  
# Confusion: per wife's report, confusion started worsening more 
rapidly during the last 6 months, but also in setting of being 
diagnosed with influenza/pneumonia in ___. 
Per wife, his mental status waxes and wanes and sometimes in 
relation to fevers. An extensive workup was done at ___ 
___ during his last hospitalziation (discharged on ___ 
for pneumonia, influenza, confusion) and was attributed to toxic 
metabolic encephalopathy (TME) secondary to influenza and 
pneumonia with underlying dementia over past 6 months which has 
progressed. Evaluated by Neurology during that admission - EEG 
showed no seizures, MRI showed chronic small vessel infarcts but 
no acute disease, Vitamin B12, TSH, RPR, lead level were normal. 
LP was deferred. Infectious workup here so far been negative 
(urine culture negative, blood cx with no growth to date, LP 
unremarkable with negative HSV, cryptococcus, and CSF culture), 
however CXR with possible pna vs. sarcoidosis flare. CT chest 
obtained showing new prominent markings of pulmonary nodules. 
Concern for infection vs. neurosarcoidosis/sarcoid flare given 
acute progression of his dementia, immunosuppresed with disease 
process, self-discontinuation of prednisone for one month, and 
leukocytosis with intermittent fevers/rigors. Leukocytosis has 
been occurring for about ___ years, but his white count has not 
been as high previously, which was concerning for an acute 
infection or acute sarcoid flare. 

Neurosarcoid was unlikely as no typical MRI changes and no 
cranial nerves involvement. Patient also without any neuro 
deficits on physical exam and LP opening pressure was normal at 
15cc. Leukocytosis, intermittent fevers, hypercalcemia, and 
recent 20# weight loss in the past year also concerning for 
possible malignancy. Per OMR, patient had extensive workup for 
possible lymphoma including biopsy with Dr. ___ was all 
negative. CSF cytology, SPEP, and UPEP were negative during this 
admission. HIV also negative. 

The pulmonary and rheumatology teams were consulted and both 
teams agreed that the patient could be having a sarcoid flare. 
As a result, he was started on prednisone 60mg on ___ with 
close follow up with rheumatology. He was also started on 
prophylactic alendronate weekly and PCP ppx with bactrim. At 
discharge, patient was afebrile, asymptomatic, with mental 
status at baseline. 

# cough/leukocytosis/intermittent fevers:  
Leukocytosis/intermittent fevers appears chronic and going in 
for about ___ years as per above. Per wife, various workup in the 
past and attributed to sarcoid +/- steroids. Patient was 
recently diagnosed with PNA/influenza and completed treatment 
with tamiflu and long course of cefpodoxine for pna. 
Differential also includes possible sarcoids flare as per above 
since patient has not been taking prednisone for last 1 month. 
CT chest with new prominence of nodules but per pulmonary team 
low suspicion for infectious process. Infectious workup 
including LP not suggestive of infection, thus attributed to 
sarcoid flare. Started on prednisone 60mg daily. Will follow up 
with rheumatology who will determine length of prednisone.  

# Sarcoidosis: c/b uveitis, ileocolitis, and pulmonary 
involvement. Patient self-discontinued prednisone for 1 month. 
Has no seen Dr. ___ since ___.   

# recent falls: previous falls per history appears mechanical 
(falling off the ladder and loosing balance when transferring 
food from the refrigerator shelves). Fall on day prior to 
admission most likely a vaso-vagal episode as he vomited, felt 
dizzy, and then fell in the tub. Unclear if loss consciousness 
as wife found him in the tub. Denied any palpitations, cp, 
urine/bowel incontinence, abnormal body movements, or weakness 
to suggest cardiac, seizures, or stroke. Negative orthostatics 
on ___, no events on telemetry for 24 hours. CT head w/o 
contrast without signs of bleeding or acute intracranial 
process. ___ and OT evaluated patient and recommended discharge 
to home. 

# Pyuria: Received CTX x1 in ED for presumed UTI. Patient was 
asymptomatic, thus treatment was not continued. Urine culture 
with no growth. 

# Acute kidney injury: On admission Cr. 1.3. Likely secondary to 
dehydration and decreased PO intake. Given IVF in ED and another 
liter overnight and creatinine returned to normal. At discharge, 
creatinine was 1.   
.  
INACTIVE ISSUES:  
# Depression:  continued on home fluoxetine   
# HLD: continued on home statin

# TRANSITIONAL ISSUES
-unclear etiology of acute worsening confusion, leukocytosis, 
and intermittent fevers, but may be secondary to systemic 
sarcoidosis. Prednisone increased to 60mg daily with close 
follow up with rheumatology and pulmonology
-on bactrim and alendronate while on prednisone
-CSF cytology negative for malignant cell, negative crypto, 
negative fungal and viral culture. Ruled out infection. 
-please follow up with pending blood cultures 
#Code: Full  
#Contact: wife (___) ___  

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 40 mg PO DAILY 
2. Fluoxetine 40 mg PO DAILY 
3. Naproxen 500 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Fluoxetine 40 mg PO DAILY 
3. Simvastatin 40 mg PO DAILY 
4. PredniSONE 60 mg PO DAILY 
RX *prednisone 20 mg 3 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0
5. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
RX *sulfamethoxazole-trimethoprim 400 mg-80 mg 1 tablet(s) by 
mouth daily Disp #*30 Tablet Refills:*0
6. Alendronate Sodium 70 mg PO QSAT 
RX *alendronate 70 mg 1 tablet(s) by mouth weekly Disp #*4 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
PRIMARY: metabolic encephalopathy, leukocytosis, intermittent 
fever of unknown etiology, systemic sarcoidosis, vasovagal 
syncope, hypercalcemia

SECONDARY: depression, sleep apnea

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your stay at ___ 
___. You were admitted to the 
hospital because of confusion and a recent fall. You were also 
found to have high white counts (which usually happens during an 
infection) and occasional fevers. We sent various test including 
the fluid in your spine and there was no active infection. You 
were seen by the rheumatology and the pulmonary team regarding 
your sarcoidosis. The teams felt that you may be having a 
sarcoidosis flare and as a result your prednisone was increased 
to 60mg daily. Please MAKE SURE you take prednisone 60mg DAILY. 
While you are on this medication, you are at risk for a lung 
infection called PCP and as ___ result, you will also need to take 
bactrim daily to prevent the infection. While on prednisone, you 
are also at risk for bone loss and as a result, you will need to 
take alendronate weekly to prevent this. 

Please make sure you follow up with your primary care physician, 
___, and pulmonology.  
 
Followup Instructions:
___